US09334263B2
Synthesis of 1-(4-fluorophenyl)-1-(2-(piperazin-1-yl)pyrimidin-5-yl)ethanol
To a solution of 1-(2-(piperazin-1-yl)pyrimidin-5-yl)ethanone (1.8 g, 8.73 mmol) in dry THF (100 mL) was added (4-fluorophenyl)magnesium bromide (1 M in THF, 87.3 mL) at 0° C. under N2. The mixture was stirred at RT for 3 h, then quenched with ammonium chloride solution and extracted with dichloromethane (300 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by Combi-flash (dicholomethane:methanol=10:1) to give the title compound (1.02 g, 38%) as a yellow solid.

reactant | 1-(2-(piperazin-1-yl)pyrimidin-5-yl)ethanone | 8.73 mmol, 1.8 g | N1(CCNCC1)C1=NC=C(C=N1)C(C)=O | C10H14N4O
reactant | (4-fluorophenyl)magnesium bromide | 1 M, 87.3 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-1-(2-(piperazin-1-yl)pyrimidin-5-yl)ethanol | 1.02 g, 38% | FC1=CC=C(C=C1)C(C)(O)C=1C=NC(=NC1)N1CCNCC1 | C16H19FN4O
